US07179823B1
Sodium hydride (60%, oily, 70.0 mg) was added to a solution of 2-(5-chloromethyl-2-pyridyloxymethyl)quinoline (498 mg), ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate (371 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-ethoxy-1-[6-(2-quinolylmethoxy)-3-pyridylmethyl]-1H-pyrazol-4-yl]propionate (733 mg, yield: 91%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | Sodium hydride | 70.0 mg | [H-].[Na+]
reactant | 2-(5-chloromethyl-2-pyridyloxymethyl)quinoline | 498 mg | ClCC=1C=CC(=NC1)OCC1=NC2=CC=CC=C2C=C1 | C16H13ClN2O
reactant | ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate | 371 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-ethoxy-1-[6-(2-quinolylmethoxy)-3-pyridylmethyl]-1H-pyrazol-4-yl]propionate | 733 mg, yield: 91% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC=1C=NC(=CC1)OCC1=NC2=CC=CC=C2C=C1 | C26H28N4O4
